US06538015B1
A solution containing 108 mg of 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3-methanol in 5 ml of anhydrous dichloromethane at −78° C. under nitrogen was treated with 45 μl of thionyl chloride. The mixture was stirred for 1 h and left to warm to room temperature. The solvent was removed under reduced pressure and the residue was azeotroped with toluene to give 120 mg of 4-[3-chloromethyl-5-(3,5-dichloro-phenylthio)-1-isopropyl-1H-pyrazol-4-ylmethyl]pyridine hydrochloride as a white solid which was used without further purification. Mass spectrum (ESI) 426 [M+H]+.

reactant | 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3-methanol | 108 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)CO)CC1=CC=NC=C1 | C19H19Cl2N3OS
reactant | thionyl chloride | 45 μl | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[3-chloromethyl-5-(3,5-dichloro-phenylthio)-1-isopropyl-1H-pyrazol-4-ylmethyl]pyridine hydrochloride | 120 mg | Cl.ClCC1=NN(C(=C1CC1=CC=NC=C1)SC1=CC(=CC(=C1)Cl)Cl)C(C)C | InChI=1S/C19H18Cl3N3S.ClH/c1-12(2)25-19(26-16-9-14(21)8-15(22)10-16)17(18(11-20)24-25)7-13-3-5-23-6-4-13;/h3-6,8-10,12H,7,11H2,1-2H3;1H
